US07507740B2
(v) Production of 4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzoic acid hydrochloride
A mixture of ethyl 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate hydrochloride (1.297 g), 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (1.00 g), diisopropylethylamine (0.834 g) and 1-methyl-2-pyrrolidinone (12.5 mL) was stirred at 140° C. for 3 hrs, poured into water (100 mL)-ethyl acetate (150 mL) and the precipitated solid was collected by filtration. The solid washed with ethyl acetate and dried under reduced pressure at 60° C. The obtained solid was suspended in methanol (40 mL), and 1N aqueous sodium hydroxide solution (20 mL) was added. After stirring at room temperature for 12 hrs, the solvent was evaporated under reduced pressure, and the residue was adjusted to pH 2 with 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water and dried under reduced pressure at 60° C. to give the title compound (1.08 g).

reactant | ethyl 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate hydrochloride | 1.297 g | Cl.ClC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)OCC)C=C2
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 1.00 g | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
reactant | diisopropylethylamine | 0.834 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-pyrrolidinone | 12.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzoic acid hydrochloride | 1.08 g | Cl.CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)O)C=C2 | InChI=1S/C26H21N5O3.ClH/c1-15-11-19(8-10-23(15)34-20-9-3-16(2)27-13-20)30-25-24-22(28-14-29-25)12-21(31-24)17-4-6-18(7-5-17)26(32)33;/h3-14,31H,1-2H3,(H,32,33)(H,28,29,30);1H
